* NGSPICE file created from sky130_fd_bd_sram__openram_sp_nand2_dec.ext - technology: sky130A

.subckt sky130_fd_bd_sram__openram_sp_nand2_dec
X0 vdd B Z vdd sky130_fd_pr__pfet_01v8 ad=0.336p pd=2.84u as=0.6776p ps=5.69u w=1.12u l=0.15u
X1 a_174_144# B gnd gnd sky130_fd_pr__nfet_01v8 ad=0.1554p pd=1.9u as=0.222p ps=2.08u w=0.74u l=0.15u
X2 Z A vdd vdd sky130_fd_pr__pfet_01v8 ad=0p pd=0u as=0p ps=0u w=1.12u l=0.15u
X3 Z A a_174_144# gnd sky130_fd_pr__nfet_01v8 ad=0.2701p pd=2.21u as=0p ps=0u w=0.74u l=0.15u
.ends

